US20010008945A1
4′-(2-Hydroxy ethyl) octanophenone prepared in the step B (137 g), imidazole (53 g) and triphenyl phosphine (174 g) were dissolved in ethyl acetate (550 ml) to obtain a solution. Iodine (197 g) was added to the solution with cooling, and the solution was stirred at room temperature for 1 hour. Then the reaction solution was diluted with ethyl acetate, the solution was washed with saturated sodium sulfite solution, and saturated saline solution, dried over anhydrous magnesium sulfate, and concentrated. The concentrated residue was extracted with hexane-ethyl acetate (20:1), and extracted solution was passed through a silica gel layer. The filtrate was concentrated to obtain 4′-(2-iodoethyl) octanophenone (175 g) in the form of white crystal.

reactant | 4′-(2-Hydroxy ethyl) octanophenone | OCCC1=CC=C(C=C1)C(CCCCCCC)=O | C16H24O2
reactant | imidazole | 53 g | N1C=NC=C1 | C3H4N2
reactant | triphenyl phosphine | 174 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Iodine | 197 g | II | I2
solvent | ethyl acetate | 550 ml | C(C)(=O)OCC | C4H8O2
product | 4′-(2-iodoethyl) octanophenone | 175 g | ICCC1=CC=C(C=C1)C(CCCCCCC)=O | C16H23IO
